US06420349B1
Ethyl 4-Azidophenylacetate
Following the general procedure of Marchesini (J. Org. Chem. 49, p. 4287-4290, 1984), sodium nitrite (38 g, 0.56 mol) was slowly added to a stirred and cooled (0° C.) mixture of ethyl 4-aminophenylacetate (25 g, 0.14 mol) in 700 mL of TFA. After the addition was complete, the reaction was stirred at 0° C. for another 0.5 hour and then sodium azide (27 g, 0.42 mol) was slowly added over a period of 0.5 hours. The mixture was stirred for another 2 hours at 0° C. and then quenched with ice water and the product was extracted with EtOAc. The organic phase was washed with water, dried over magnesium sulfate, filtered, concentrated to yield 26.5 g (90%) of the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6) δ7.31 (d, J=8 Hz, 2H), 7.07 (d, J=7 Hz, 2H), 4.07 (q, J=7 Hz, 2H), 3.66 (s, 2H), 1.17 (t, J=7 Hz, 3H).

reactant | sodium nitrite | 0.56 mol, 38 g | N(=O)[O-].[Na+]
reactant | ethyl 4-aminophenylacetate | 0.14 mol, 25 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | sodium azide | 0.42 mol, 27 g | [N-]=[N+]=[N-].[Na+]
solvent | TFA | 700 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Ethyl 4-Azidophenylacetate | 26.5 g, 90% | N(=[N+]=[N-])C1=CC=C(C=C1)CC(=O)OCC | C10H11N3O2
